US04045576
2-Amino-3-benzoylphenylacetic Acid.
A mixture of 1.0 g. (0.004 mole) of 7-benzoylindolin-2-one was added to 30 ml. of 3N sodium hydroxide and the basic solution was refluxed for 45 minutes under nitrogen. The mixture was filtered and the filtrate was neutralized with glacial acetic acid. The precipitate was filtered off, washed with water and dried. The material melted at 122° C. (dec.). The yield was 0.8 g. (72%).

reactant | 7-benzoylindolin-2-one | 0.004 mole | C(C1=CC=CC=C1)(=O)C=1C=CC=C2CC(NC12)=O | C15H11NO2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
product | 2-Amino-3-benzoylphenylacetic Acid | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)O | C15H13NO3
